US08304557B2
N-[5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-2-fluorophenyl]-3-methyl-1-(2,2,2-trifluoroethyl)-1H-pyrazole-5-carboxamide
In the same manner as in Example 18-4 and using 3-methyl-1-(2,2,2-trifluoroethyl)-1H-pyrazole-5-carboxylic acid (254 mg, 1.22 mmol), tetrahydrofuran (7 mL), oxalyl chloride (160 μL, 1.83 mmol), N-[6-(3-amino-4-fluorophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide (200 mg, 0.611 mmol), N,N-dimethylformamide (1 drop) and N,N-dimethylacetamide (3 mL) as starting materials, the title compound (264 mg, 84%) was obtained as a white solid.

reactant | 3-methyl-1-(2,2,2-trifluoroethyl)-1H-pyrazole-5-carboxylic acid | 1.22 mmol, 254 mg | CC1=NN(C(=C1)C(=O)O)CC(F)(F)F | C7H7F3N2O2
reactant | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
reactant | oxalyl chloride | 1.83 mmol, 160 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-amino-4-fluorophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 0.611 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C=CC1F | C16H14FN5O2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 3 mL | CN(C(C)=O)C | C4H9NO
product | N-[5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-2-fluorophenyl]-3-methyl-1-(2,2,2-trifluoroethyl)-1H-pyrazole-5-carboxamide | 264 mg, 84% | C1(CC1)C(=O)NC1=NN2C(C=CC(=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2CC(F)(F)F)C)F)=N1 | C23H19F4N7O3
